US08426602B2
2-({[2-(4-Chlorophenyl)-1,3-thiazol-4-yl]methyl}sulfanyl)-6-(methylamino)-4-(1H-pyrazol-3-yl)pyridine-3,5-dicarbonitrile
300 mg (0.639 mmol) of 2-chloro-6-({[2-(4-chlorophenyl)-1,3-thiazol-4-yl]methyl}sulfanyl)-4-(1H-pyrazol-3-yl)pyridine-3,5-dicarbonitrile were dissolved in 2 ml of tetrahydrofuran, and 0.639 ml (1.278 mmol) of a 2 M solution of methylamine in tetrahydrofuran was added. After 30 minutes of stirring, methanol was added, the mixture was filtered and the filtrate was purified by preparative HPLC. This gave 173 mg (58% of theory) of the target compound.

reactant | 2-chloro-6-({[2-(4-chlorophenyl)-1,3-thiazol-4-yl]methyl}sulfanyl)-4-(1H-pyrazol-3-yl)pyridine-3,5-dicarbonitrile | 0.639 mmol, 300 mg | ClC1=NC(=C(C(=C1C#N)C1=NNC=C1)C#N)SCC=1N=C(SC1)C1=CC=C(C=C1)Cl | C20H10Cl2N6S2
reactant | methylamine | CN | CH5N
reactant | methanol | CO | CH4O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 2-({[2-(4-Chlorophenyl)-1,3-thiazol-4-yl]methyl}sulfanyl)-6-(methylamino)-4-(1H-pyrazol-3-yl)pyridine-3,5-dicarbonitrile | ClC1=CC=C(C=C1)C=1SC=C(N1)CSC1=NC(=C(C(=C1C#N)C1=NNC=C1)C#N)NC | C21H14ClN7S2
